US07368477B2
To a suspension of 2-[(7-phenyl-5-chloro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione (0.382 g, 0.985 minol) in ethanol (10 mL) was added the methylamine (33% in ethanol, 20 mL) and the reaction mixture was heated to 70° C. and allowed to stir for 1 h. The reaction mixture was allowed to cool to room temperature and the solvent removed in vacuo. The residue was dissolved in ethyl acetate (50 mL) and washed with water (2×20 mL), saturated aqueous sodium bicarbonate (20 mL), saturated aqueous sodium chloride (20 mL), dried (magnesium sulfate), and the solvent removed in vacuo. Purification by flash column chromatography (silica, 10% ammonium hydroxide in methanol:ethyl acetate 1:9) provided a colorless oil that was dissolved in isopropanol (2 mL) and hydrogen chloride (1.0 N in diethyl ether, 5 mL) was added. The resulting precipitate was filtered, washed (diethylether), and dried to afford 0.165 g (57%) of [(5-chloro-7-phenyl-1-benzofuran-2-yl)methyl]amine as a white solid. mp>225° C.

reactant | 2-[(7-phenyl-5-chloro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione | 0.382 g | C1(=CC=CC=C1)C1=CC(=CC=2C=C(OC21)CN2C(C1=CC=CC=C1C2=O)=O)Cl | C23H14ClNO3
reactant | methylamine | 20 mL | CN | CH5N
reactant | hydrogen chloride | 1.0 N, 5 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | [(5-chloro-7-phenyl-1-benzofuran-2-yl)methyl]amine | 0.165 g, 57% | ClC=1C=C(C2=C(C=C(O2)CN)C1)C1=CC=CC=C1 | C15H12ClNO
